US06713471B1
1-(2-amino-4-fluorophenyl)-4-((±)-cis-1,2,6b,9,10,10a-hexahydro[1,4]oxazino-[2,3,4-hi]pyrido[4,3-b]indol-8(7H)-yl)-1-butanone
The title compound was prepared by the method of Example 361 as a red oil (11 mg, 24%) from (±)-cis-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino-[2,3,4-hi]pyrido[4,3-b]indole (30 mg, 0.12 mmol) and 1-(2-amino-4-fluorophenyl)-4-chloro-1-butanone (51 mg, 0.24 mmol). 1H NMR (CDCl3, 300 MHz) δ1.87-2.15 (m, 5H), 2.25-2.45 (m, 3H), 2.65-2.79 (m, 2H), 2.86-2.95 (m, 3H), 3.15-3.30 (m, 3H), 4.44 (dd, J=6.9, 2.2 Hz, 2H), 6.26-6.38 (m, 2H), 6.41-6.50 (br-s, 2H), 6.60-6.72 (m, 3H), 7.78 (dd, J=9.1, 6.6 Hz, 1H) ppm.

reactant | (±)-cis-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino-[2,3,4-hi]pyrido[4,3-b]indole | 0.12 mmol, 30 mg | C1COC=2C=CC=C3[C@H]4[C@@H](N1C23)CCNC4 | C13H16N2O
reactant | 1-(2-amino-4-fluorophenyl)-4-chloro-1-butanone | 0.24 mmol, 51 mg | NC1=C(C=CC(=C1)F)C(CCCCl)=O | C10H11ClFNO
product | 1-(2-amino-4-fluorophenyl)-4-((±)-cis-1,2,6b,9,10,10a-hexahydro[1,4]oxazino-[2,3,4-hi]pyrido[4,3-b]indol-8(7H)-yl)-1-butanone | NC1=C(C=CC(=C1)F)C(CCCN1C[C@@H]2[C@@H](N3C4=C(C=CC=C24)OCC3)CC1)=O | C23H26FN3O2
